US04312664
46.7 g (0.2 mole) of ω-bromo-4-chloroacetophenone in 40 ml of ethanol were added to 48.4 g (0.4 mole) of 2,6-dimethylaniline in 40 ml of ethanol and the mixture was warmed to 50° C. for 20 minutes. Thereafter, it was cooled to 0° C. and the crystals which had formed were filtered off and rinsed with a little ethanol. 30 g (55% of theory) of 2,6-dimethyl-N-(4-chlorobenzoylmethyl)-aniline of melting point 82° C. were obtained.

reactant | ω-bromo-4-chloroacetophenone | 0.2 mole, 46.7 g | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
reactant | 2,6-dimethylaniline | 0.4 mole, 48.4 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,6-dimethyl-N-(4-chlorobenzoylmethyl)-aniline | 30 g, 55% | CC1=C(NCC(C2=CC=C(C=C2)Cl)=O)C(=CC=C1)C | C16H16ClNO
